US06465485B1
5-Pentafluoroethyl-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline
A mixture of 5-bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline (4.0 g, 13 mmol), sodium pentafluoropropionate (4.85 g, 26 mmol), copper (I) iodide (5.22 g, 27.2 mmol), toluene (70 ml) and dimethylformamide (70 ml) was heated under argon with Dean-Stark distillation (70 ml distillate collected), then heated at reflux for 18 h. The mixture was cooled, then poured into a mixture of water (150 ml) and 0.880 ammonia (150 ml). Resulting solution was extracted with dichloromethane (4×100 ml) and the combined extracts dried (Na2SO4) and evaporated in vacuo to give a solid. Chromatography on silica with 10-50% ether-hexane gradient elution gave the title compound (2.97 g, 66%) as a colourless solid.

reactant | 5-bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline | 13 mmol, 4.0 g | BrC1=C2CCN(CC2=CC=C1)C(C(F)(F)F)=O | C11H9BrF3NO
reactant | sodium pentafluoropropionate | 26 mmol, 4.85 g | FC(C(C(=O)[O-])(F)F)(F)F.[Na+]
reactant | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
reactant | ammonia | 150 ml | N | H3N
catalyst | copper (I) iodide | 27.2 mmol, 5.22 g | [Cu]I
solvent | water | 150 ml | O | H2O
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 5-Pentafluoroethyl-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline | 2.97 g, 66% | FC(C(F)(F)F)(C1=C2CCN(CC2=CC=C1)C(C(F)(F)F)=O)F | C13H9F8NO
